US05500406
1.55 g (10 mmol) of 2-amino-4,6-dimethoxypyrimidine was dissolved in 30 ml of dry tetrahydrofuran, and 1.42 g (10 mmol) of chlorosulfonyl isocyanate was dropwise added thereto at -20° C. The reaction temperature was raised to -5° C., and the mixture was stirred at the same temperature for 5 minutes. The reaction mixture was cooled again to -20° C., and a mixture comprising 2.28 g (10 mmol) of 2-imino-3-methyloxazolidine hydroiodide, 2.22 g (22 mmol) of triethylamine and 30 ml of dry tetrahydrofuran, was added thereto. The reaction temperature was raised to room temperature, and the mixture was further stirred at the same temperature for one hour. Then, the solvent was distilled off under reduced pressure, and then 100 ml of water was added to the obtained residue. Precipitated crystals were collected by filtration, washed with water and then with a solvent mixture of ethyl ether/acetonitrile and dried to obtain 0.8 g of desired 1-(3-methyloxazolidine-2-sulfonylimino)-3-(4,6-dimethoxypyrimidin-2-yl)urea.

reactant | 2-amino-4,6-dimethoxypyrimidine | 10 mmol, 1.55 g | NC1=NC(=CC(=N1)OC)OC | C6H9N3O2
reactant | chlorosulfonyl isocyanate | 10 mmol, 1.42 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 2-imino-3-methyloxazolidine hydroiodide | 10 mmol, 2.28 g | I.N=C1OCCN1C
reactant | triethylamine | 22 mmol, 2.22 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-(3-methyloxazolidine-2-sulfonylimino)-3-(4,6-dimethoxypyrimidin-2-yl)urea | 0.8 g | CN1C(OCC1)S(=O)(=O)N=NC(=O)NC1=NC(=CC(=N1)OC)OC | C11H16N6O6S
